US07247734B2
This compounds was synthesised in the same manner as described above. 4-Chlororesorcinol (0.33 g, 2.28 mmol), [3-(3-Cyano-propoxy)-phenyl]-acetic acid (0.5 g, 2.28 mmol), BF3Et2O (5 ml), PCl5 (0.71 g, 3.4 mmol), DMF (8 ml and 5 ml). Crude 4-[3-(6-Chloro-7-hydroxy-4-oxo-4H-chromen-3-yl)-phenoxy]-butyronitrile was obtained as an oil which was taken onto the next stage without further purification.

reactant | 4-Chlororesorcinol | 2.28 mmol, 0.33 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | [3-(3-Cyano-propoxy)-phenyl]-acetic acid | 2.28 mmol, 0.5 g | C(#N)CCCOC=1C=C(C=CC1)CC(=O)O | C12H13NO3
reactant | PCl5 | 3.4 mmol, 0.71 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-[3-(6-Chloro-7-hydroxy-4-oxo-4H-chromen-3-yl)-phenoxy]-butyronitrile | ClC=1C=C2C(C(=COC2=CC1O)C=1C=C(OCCCC#N)C=CC1)=O | C19H14ClNO4
